* Z:\mnt\design.r\spice\examples\4680.asc
V1 IN 0 12
C1 OUT1 0 330µ x2
C2 OUT0 0 330µ x2
C3 0 N001 220p
C4 0 N003 4700p
C5 0 N002 220p
C6 0 N004 2200p
R1 N007 N008 10K
R2 N005 N008 10K
R3 N006 N008 4.99K
C7 OUT1 0 100µ x3
C8 OUT0 0 100µ x3
Rload1 OUT0 0 .055
Rload2 OUT1 0 .055
XU1 OUT1 0 MP_01 MP_02 N004 N002 MP_03 MP_04 IN IN N006 MP_05 MP_06 MP_07 MP_08 MP_09 N007 N005 MP_10 NC_11 NC_12 NC_13 NC_14 NC_15 NC_16 MP_17 MP_18 N008 N001 N003 0 OUT0 NC_19 NC_20 MP_21 MP_22 OUT0 NC_23 IN NC_24 0 OUT1 MP_25 MP_26 NC_27 MP_28 MP_29 NC_30 0 LTM4680
.tran 1.2m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. \n                Certain combinations are restricted as in datasheet. FREQ_CFG \n                pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively;\n     Vout0_range & Vout1_range -- set maximum output range, with value 0\n                                                      for 3.6V; value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0\n                           for low  and 1 for high;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;\n     gm -- transconductance of the error amplifier. It must be between 1m mho and 5.73m mho;\n     Rth -- Compensation resistor. It must be set between 0k ohms and 62k ohms;\n    Sync - value 0 for Master, value 1 for Slave
.lib LTM4680.sub
.backanno
.end
